US06537989B1
5-methyl-hex-4-ene-2,3-dione 2-(O-(2-((5,6-dihydro-[1,4,2]-dioxazin-3-yl)methoxyiminomethyl)benzyl)oxime)3-(O-methyloxime)
A solution of 3.3 g (59 mmol) of potassium hydroxide in 20 ml of methanol was added to a solution of 1.75 g (25 mmol) of hydroxylamine hydrochloride in 20 ml of methanol. The mixture was stirred at room temperature for 5 minutes, 4.5 g (12 mmol) of 5-methylhex-4-ene-2,3-dione 2-(O-(2-(methoxycarbonylmethoxyiminomethyl)benzyl)oxime) 3-(O-methyloxime) were then added and the mixture was stirred at 40° C. for 1 h. 1.8 g (13 mmol) of potassium carbonate and 5.1 ml (59 mmol) of 1,2-dibromoethane were subsequently added. The reaction mixture was stirred at room temperature for 18 h and then concentrated under reduced pressure, and the residue was purified by chromatography. This gave 0.6 g of the title compound as an oil.

reactant | potassium hydroxide | 59 mmol, 3.3 g | [OH-].[K+]
reactant | hydroxylamine hydrochloride | 25 mmol, 1.75 g | Cl.NO
reactant | 5-methylhex-4-ene-2,3-dione 2-(O-(2-(methoxycarbonylmethoxyiminomethyl)benzyl)oxime) 3-(O-methyloxime) | 12 mmol, 4.5 g | CON=C(C(C)=NOCC1=C(C=CC=C1)C=NOCC(=O)OC)C=C(C)C | C19H25N3O5
reactant | potassium carbonate | 13 mmol, 1.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromoethane | 59 mmol, 5.1 ml | BrCCBr | C2H4Br2
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | 5-methyl-hex-4-ene-2,3-dione 2-(O-(2-((5,6-dihydro-[1,4,2]-dioxazin-3-yl)methoxyiminomethyl)benzyl)oxime)3-(O-methyloxime) | CON=C(C(C)=NOCC1=C(C=CC=C1)C=NOCC1=NOCCO1)C=C(C)C | C20H26N4O5
